.title delay__A__lh__OUT__hl__ACQ_1

* state: B&C
* state_coverage: 1

* Deck file generated by PrimeLib T-2022.03-SP1 build date: Apr 12, 2022 13:01:04. (SMSC-2)
* PrimeLib path: /proj/cad/synopsys/synopsys_2021/primelib/T-2022.03-SP1/linux64/bin/primelib
* Host Name: engnx02a.utdallas.edu, User Name: sxv240035, PID: 6277
* Directory: /var/tmp/primelib.engnx02a.860278.6277/NAND3/delay__A__lh__OUT__hl__ACQ_1.sif_0

* Circuit simulation deck copyright (c) 1998-Present
* Synopsys Inc.  This file contains proprietary
* and confidential information.  All rights reserved.

* **************************
* Process Corner
* **************************

.include "/proj/cad/library/mosis/GF65_LPe/cmos10lpe_CDS_oa_dl064_11_20160415/models/YI-SM00030/Hspice/models/design.inc"
 


* **************************
* Temperature
* **************************

.temp 0

* **************************
* Options
* **************************

.option post=0
.option probe=1
.option numdgt=10 measdgt=10 autostop=1
.option ingold=1 lennam=16 nomod=1 brief=1 lislvl=1 statfl=1 warnlimit=5 pivot=0 symb=1 post_version=9601
.option measform=1
.option cell_char=yes
.option  post=1 runlvl=5 numdgt=7 measdgt=7 acct=1 nopage
.option measout=1 putmeas=0

.save TYPE=ic LEVEL=NONE
* **************************
* Parameters
* **************************

.param __param_b = 1.2
.param __param_c = 1.2
.param __param_vdd = 1.2
.param __param_vss = 0
.param ct = 6.4125e-08
.param default_slew = 1.5e-11
.param energy_change_abs_threshold = 1e-12
.param energy_change_threshold = 0.05
.param initial_delay = 1e-11
.param load_out = 1e-14
.param load_vdd = 4e-14
.param load_vss = 4e-14
.param pp = 3.135e-08
.param slew_a = 1e-11
.param temperature_tag = 0
.param units = 6.4125e-08
.param end_time = 9.50006e-08
.data arc_data
+ slew_a load_out temperature_tag __param_vdd __param_vss
+ 1e-11 1e-14 0 1.2 0
+ 1e-11 1.3693981e-14 0 1.2 0
+ 1e-11 2.6660665e-14 0 1.2 0
+ 1e-11 5.1422412e-14 0 1.2 0
+ 1e-11 9e-14 0 1.2 0
+ 2.7273437e-10 1e-14 0 1.2 0
+ 2.7273437e-10 1.3693981e-14 0 1.2 0
+ 2.7273437e-10 2.6660665e-14 0 1.2 0
+ 2.7273437e-10 5.1422412e-14 0 1.2 0
+ 2.7273437e-10 9e-14 0 1.2 0
+ 1.1949898e-09 1e-14 0 1.2 0
+ 1.1949898e-09 1.3693981e-14 0 1.2 0
+ 1.1949898e-09 2.6660665e-14 0 1.2 0
+ 1.1949898e-09 5.1422412e-14 0 1.2 0
+ 1.1949898e-09 9e-14 0 1.2 0
+ 2.956169e-09 1e-14 0 1.2 0
+ 2.956169e-09 1.3693981e-14 0 1.2 0
+ 2.956169e-09 2.6660665e-14 0 1.2 0
+ 2.956169e-09 5.1422412e-14 0 1.2 0
+ 2.956169e-09 9e-14 0 1.2 0
+ 5.7e-09 1e-14 0 1.2 0
+ 5.7e-09 1.3693981e-14 0 1.2 0
+ 5.7e-09 2.6660665e-14 0 1.2 0
+ 5.7e-09 5.1422412e-14 0 1.2 0
+ 5.7e-09 9e-14 0 1.2 0
.enddata

* **************************
* Global nodes
* **************************


* **************************
* Network
* **************************

.inc '/home/eng/s/sxv240035/cad/gf65/primelib_gf65/NAND3/netlists/NAND3.pex.sp'
xnand3_inst vss out vdd c b a NAND3
va_meter a a_harness dc 0
vb_meter b b_harness dc 0
vb_stim b_harness 0 dc 1.2
vc_meter c c_harness dc 0
vc_stim c_harness 0 dc 1.2
vout_meter out out_harness dc 0
vvdd_meter vdd vdd_harness dc 0
vvdd_stim vdd_harness 0 dc 1.2
cvdd_stim_cap vdd_harness 0 1e-15
vvss_meter vss vss_harness dc 0
vvss_stim vss_harness 0 dc 0
cvss_stim_cap vss_harness 0 1e-15
ccap_out out_harness ground_out 'load_out'
ccap_vdd vdd_harness ground_vdd 4e-14
ccap_vss vss_harness ground_vss 4e-14
vcap_ground_out ground_out 0 dc 0
vcap_ground_vdd ground_vdd 0 dc 0
vcap_ground_vss ground_vss 0 dc 0
va_stim a_harness 0 pwl
+  0  0
+  1e-11  0
+  '1e-11 + slew_a * 1.25'  1.2
+  3.136e-08  1.2
* **************************
* Measurements
* **************************

.meas tran cin__a__lh_trig when v(a)=0.06 cross=1 td=1e-11
.meas tran cin__a__lh_targ when v(a)=1.14 cross=1 td=1e-11
.meas tran cin__a__lh_q integ i(va_meter) from='cin__a__lh_trig' to='cin__a__lh_targ'
* Return abs((Cin__A__lh_q)/(1.08))
.meas tran tin__a__lh_trig when v(a)=0.12 rise=1 td=1e-11
.meas tran tin__a__lh_targ when v(a)=1.08 rise=1 td=1e-11
* Return ((Tin__A__lh_targ)-(Tin__A__lh_trig))*(1)
.meas tran tout__out__hl_trig when v(out)=1.08 fall=1 td=1e-11
.meas tran tout__out__hl_targ when v(out)=0.12 fall=1 td=1e-11
* Return ((Tout__OUT__hl_targ)-(Tout__OUT__hl_trig))*(1)
.meas tran cap_energy__out__hl_vp0 find v(out_harness) at=1e-11
.meas tran cap_energy__out__hl_vp1 find v(out_harness) at=3.136e-08
.meas tran cap_energy__out__hl_vn0 find v(ground_out) at=1e-11
.meas tran cap_energy__out__hl_vn1 find v(ground_out) at=3.136e-08
* Return (((0.5)*(cap_OUT.value))*(cap_energy__OUT__hl_vp1-cap_energy__OUT__hl_vn1-cap_energy__OUT__hl_vp0+cap_energy__OUT__hl_vn0))*(cap_energy__OUT__hl_vp1-cap_energy__OUT__hl_vn1-cap_energy__OUT__hl_vp0+cap_energy__OUT__hl_vn0)
.meas tran delay__a__lh__out__hl_trig when v(a)=0.6 rise=1 td=1e-11
.meas tran delay__a__lh__out__hl_targ when v(out)=0.6 fall=1 td=1e-11
* Return ((delay__A__lh__OUT__hl_targ)-(delay__A__lh__OUT__hl_trig))*(1)
.meas tran energy1__a__lh__out__hl__vdd_vdd_harness_v find v(vdd_harness) at=3.136e-08
.meas tran energy1__a__lh__out__hl__vdd_vdd_harness_q integ i(vvdd_stim) from=1e-11 to=3.136e-08
* Return (0)-((energy1__A__lh__OUT__hl__VDD_VDD_harness_v)*(energy1__A__lh__OUT__hl__VDD_VDD_harness_q))
.meas tran energy__a__lh__out__hl_vdd_harness_v find v(vdd_harness) at=3.136e-08
.meas tran energy__a__lh__out__hl_vdd_harness_q integ i(vvdd_stim) from=1e-11 to=3.136e-08
* Return (0)-((energy__A__lh__OUT__hl_VDD_harness_v)*(energy__A__lh__OUT__hl_VDD_harness_q))
.meas tran leakage_power1__vdd_vdd_harness_v avg v(vdd_harness) from=2.97925e-08 to=3.136e-08
.meas tran leakage_power1__vdd_vdd_harness_i avg i(vvdd_stim) from=2.97925e-08 to=3.136e-08
* Return (0)-((leakage_power1__VDD_VDD_harness_v)*(leakage_power1__VDD_VDD_harness_i))
.meas tran leakage_power2__vdd_vdd_harness_v avg v(vdd_harness) from=2.8225e-08 to=2.97925e-08
.meas tran leakage_power2__vdd_vdd_harness_i avg i(vvdd_stim) from=2.8225e-08 to=2.97925e-08
* Return (0)-((leakage_power2__VDD_VDD_harness_v)*(leakage_power2__VDD_VDD_harness_i))
* **************************
* Analysis
* **************************

* Analysis.tranPlus.
.tran 1e-12 9.50006e-08 sweep data=arc_data

.end
